US05493030
A solution of trimethyl 4-bromoorthobutyrate (20 ml), propionic acid (0.22 ml) and 4-(4-tert -butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-3-hydroxy-2-methylbut-1-ene (3.18 g) was heated at 110° C. in a three-necked flash with a slow nitrogen stream passing over the reaction mixture. After 1 hr 40 min the excess orthoester was removed in vacuo at 55° C. Flash chromatography of the residue on silica gel eluting with 20-30% ethyl acetate/hexane gave methyl 2-(2-bromoethyl)-6-(4-t -butyldimethylsiloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl -hex-4-enoate (2.66 g).

reactant | propionic acid | 0.22 ml | C(CC)(=O)O | C3H6O2
reactant | 4-(4-tert -butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-3-hydroxy-2-methylbut-1-ene | 3.18 g | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1CC(C(=C)C)O)OC)C)=O | C21H32O5Si
reactant | trimethyl 4-bromoorthobutyrate | 20 ml | COC(CCCBr)(OC)OC | C7H15BrO3
product | methyl 2-(2-bromoethyl)-6-(4-t -butyldimethylsiloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl -hex-4-enoate | 2.66 g | BrCCC(C(=O)OC)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O[Si](C)(C)C(C)(C)C)C | C26H39BrO6Si
